US06482852B2
(c) (2-hydroxy-5-iodo-phenyl)-phosphonic acid diethyl ester
To a cooled (0° C.) mixture of (2-hydroxy-phenyl)-phosphonic acid diethyl ester (13.1 g, 56.9 mmol) and sodium iodide (10.2 g, 68.3 mmol) in DMF (200 mL) was added chloramine-T trihydrate (19.2 g, 68.3 mmol) over 5 min. After 10 min, the reaction was allowed to warm to rt and the mixture was allowed to stir at rt for 2 h. The mixture was diluted with H2O (50 mL), acidified using 0.5 N HCl and extracted twice with EtOAc. The organic extracts were pooled and washed sequentially with satd. Na2S2O3/brine (1/1) and then brine. The organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue was chromatographed over silica gel (elution with a stepwise gradient 5-15% EtOAc-hexanes) to give 14.9 g (73%) of a colorless solid after recrystallization (EtOAc-hexanes). Rf 0.30 (20% EtOAc-hexanes). Electrospray Mass Spectrum (50/50 acetonitrile/water) m/z 357 (M+H).

reactant | (2-hydroxy-phenyl)-phosphonic acid diethyl ester | 56.9 mmol, 13.1 g | C(C)OP(OCC)(=O)C1=C(C=CC=C1)O | C10H15O4P
reactant | sodium iodide | 68.3 mmol, 10.2 g | [I-].[Na+]
reactant | chloramine-T trihydrate | 68.3 mmol, 19.2 g | CC1=CC=C(C=C1)S(=O)(=O)[N-]Cl.O.O.O.[Na+]
reactant | HCl | 0.5 N | Cl | ClH
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | (2-hydroxy-5-iodo-phenyl)-phosphonic acid diethyl ester | 14.9 g, 73% | C(C)OP(OCC)(=O)C1=C(C=CC(=C1)I)O | C10H14IO4P
